US07423185B2
Trifluoromethanesulfonic anhydride (0.47 mL) was added to an ice-cooled mixture of 4-bromo-2-isopropylphenol (0.5 g) and pyridine (0.28 mL) in methylene chloride (5 mL) with stirring. The mixture was stirred for 10 min, and poured into a mixture of ethyl acetate and 1 mol/L hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: diethyl ether/n-hexane=1/10) to afford 4-bromo-2-isopropylphenyl methanesulfonate (0.71 g).

reactant | Trifluoromethanesulfonic anhydride | 0.47 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-bromo-2-isopropylphenol | 0.5 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | pyridine | 0.28 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2-isopropylphenyl methanesulfonate | 0.71 g | CS(=O)(=O)OC1=C(C=C(C=C1)Br)C(C)C | C10H13BrO3S
